US08648089B2
tert-butyl 4-(3-(4-methoxyphenyl)-1-(pyridin-4-yl)-1H-indol-6-yl)piperazine-1-carboxylate
DMF/water (4:1, 2 mL) was added to a mixture of tert-butyl 4-(3-bromo-1-(pyridin-4-yl)-1H-indol-6-yl)piperazine-1-carboxylate (29 mg, 0.0636 mmol), potassium carbonate (18 mg, 0.13 mmol) and 4-methoxyphenylboronic acid (11 mg, 0.070 mmol) and the dissolved gas was removed. After adding Pd(dppf) Cl2 (10.4 mg, 0.013 mmol), the mixture was stirred at room temperature for 14 hours. After adding ethyl acetate and water, the mixture was filtered using a diatomite pad. After separation of the organic layer, the aqueous layer was extracted with ethyl acetate. The collected organic layer was washed with brine and concentrated under reduced pressure by drying with anhydrous magnesium sulfate. The residue was purified by chromatography (silica gel, EA:Hx=1:4 1:1). The target compound (31 mg) was obtained as white solid.

reactant | DMF water | 2 mL | CN(C)C=O.O
reactant | tert-butyl 4-(3-bromo-1-(pyridin-4-yl)-1H-indol-6-yl)piperazine-1-carboxylate | 0.0636 mmol, 29 mg | BrC1=CN(C2=CC(=CC=C12)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=NC=C1 | C22H25BrN4O2
reactant | potassium carbonate | 0.13 mmol, 18 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxyphenylboronic acid | 0.070 mmol, 11 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(3-(4-methoxyphenyl)-1-(pyridin-4-yl)-1H-indol-6-yl)piperazine-1-carboxylate | 31 mg | COC1=CC=C(C=C1)C1=CN(C2=CC(=CC=C12)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=NC=C1 | C29H32N4O3
